US04025532
Preparation of 2-phenylimino-4-methyl-1,3-dithiole
In a suitable reaction vessel, 2-chloroallyl dithiocarbanilate (20.3 g, 0.0834 mol) and concentrated hydrochloric acid (26.2 ml, ca. 0.326 mol) are mixed and heated at reflux temperatures for 5 hours. The resulting solution is cooled to room temperature and is diluted with water. Solid sodium carbonate is added to the solution to raise the pH to 6 and the reaction mixture is then extracted with ether. The ether layer is separated and washed with 6N hydrochloric acid. The resulting aqueous acidic layer is neutralized with sodium carbonate and the separated product is extracted with ether. The ether layer is washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo to leave crude 2-phenylimino-4-methyl-1,3-dithiole which crystallizes on standing. The crude product is recrystallized from petroleum ether to yield 8.8 g of the purified product, a tan solid melting at from 44.5° C. to 49.5° C.

reactant | 2-chloroallyl dithiocarbanilate | 0.0834 mol, 20.3 g | C(NC1=CC=CC=C1)(SCC(=C)Cl)=S | C10H10ClNS2
reactant | hydrochloric acid | ca. 0.326 mol, 26.2 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-phenylimino-4-methyl-1,3-dithiole | 8.8 g | C1(=CC=CC=C1)N=C1SC=C(S1)C | C10H9NS2
